US07144913B2
Step 1: 3-[(4-Chlorophenyl)sulfanyl]-1H-indole
To a vigorously stirred solution of 5.2 g of indole in 100 mL of DMF was added 2.9 g of NaH (60% in mineral oil). After stirring for 15 minutes, 14.4 g of bis(4-chlorophenyl) disulfide was added. The resulting mixture was stirred for 14 hours and quenched with 15 mL of AcOH and concentrated under reduced pressure. The residue was dissolved in 200 mL of 1:1 hexane/EtOAc and filtered through a pad of silica gel. The filtrate was concentrated and the crude product was swished from 50 mL of 10:1 hexane/EtOAc to give 8.5 g of the title compound as a white solid.

reactant | indole | 5.2 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | NaH | 2.9 g | [H-].[Na+]
reactant | bis(4-chlorophenyl) disulfide | 14.4 g | ClC1=CC=C(C=C1)SSC1=CC=C(C=C1)Cl | C12H8Cl2S2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-[(4-Chlorophenyl)sulfanyl]-1H-indole | 8.5 g | ClC1=CC=C(C=C1)SC1=CNC2=CC=CC=C12 | C14H10ClNS
